US05185333
A mixture of 12 g of 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid, 200 ml of methanol, and 10 ml of concentrated sulfuric acid was heat-refluxed for 24 hours with stirring. The liquid reaction mixture was concentrated in vacuo. To the residue were added an aqueous solution of sodium hydrogencarbonate and ethyl acetate, and the resulting organic layer was separated, washed with water, and dried over magnesium sulfate. The solvent was clitilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of isopropyl ether and ethanol to give 9.2 g of methyl 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylate. Melting point: 60°-61° C.

reactant | 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 12 g | ClC=1C=C(C2=C(NCCO2)C1)C(=O)O | C9H8ClNO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | methyl 6-chloro-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylate | 9.2 g | ClC=1C=C(C2=C(NCCO2)C1)C(=O)OC | C10H10ClNO3
